US07745438B2
(3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-3-methylmorpholin-2-one
Add 2(R)-trifluoromethanesulfonyloxypropionic acid methyl ester (6 g, 25.42 mmol) to a solution of (2R,3S,4S)-2-amino-3-benzyloxy-4-dibenzylamino-5-(3,5-difluorophenyl)-pentan-1-ol bishydrochloride (4.7 g, 7.94 mmol) and triethylamine (5 mL, 35.87 mmol) in dichloromethane (150 mL). Stir the reaction mixture at room temperature for 68-hours. Dilute with dichloromethane and wash with 5% aqueous citric acid, saturated aqueous sodium chloride, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 10:90 to 20:80 ethyl acetate:hexanes) to give the desired compound (2.93 g, 65%).

reactant | 2(R)-trifluoromethanesulfonyloxypropionic acid methyl ester | 25.42 mmol, 6 g | COC([C@@H](C)OS(=O)(=O)C(F)(F)F)=O | C5H7F3O5S
reactant | (2R,3S,4S)-2-amino-3-benzyloxy-4-dibenzylamino-5-(3,5-difluorophenyl)-pentan-1-ol bishydrochloride | 7.94 mmol, 4.7 g | Cl.Cl.N[C@H](CO)[C@@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1
reactant | triethylamine | 35.87 mmol, 5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (3S,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-3-methylmorpholin-2-one | 2.93 g, 65% | C(C1=CC=CC=C1)O[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)[C@H]1COC([C@@H](N1)C)=O | C35H36F2N2O3
